data/mechanisms/records/IMS8-EQ8.42a.json
{"mechanism_id": "IMS8-EQ8.42a", "species": [{"species_id": "ethylamine_radical_cation", "mapped_smiles": "[CH3:1][CH2:2][NH2+:3]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "methaniminium_ion", "mapped_smiles": "[CH2:2]=[NH2+:3]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "methyl_radical", "mapped_smiles": "[CH3:1]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["ethylamine_radical_cation"]}, {"state_id": "state_products", "species_ids": ["methaniminium_ion", "methyl_radical"]}], "steps": [{"step_id": "step_alpha_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_alpha", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage", "support_type": "textbook_proposed", "locator": {"page": 172, "equation": "8.42", "figure": null, "panel": null, "section": "8 / Detailed Mechanisms of Ion Fragmentation"}, "confidence": 0.85, "curator_note": "Upper (alpha) branch of the generic branching scheme R-CH2-Y(+.) -> R. + CH2=Y(+). Book draws 0 electron-pushing arc(s); the page shows only two labeled reaction arrows (alpha up, sigma down) off a brace, so all 3 encoded moves are implicit fishhooks required for electron balance (not drawn on the page): move 1 = radical site Y(N) odd electron into the forming C2=N3 pi bond, move 2 = one C1-C2 sigma electron into that pi bond, move 3 = the other C1-C2 sigma electron onto departing R (C1) as the methyl radical. GENERIC scheme (R, Y): instantiated as R=CH3, Y=NH2 (ethylamine radical cation, N-ionized, the top radical-site N > S,O,pi per the page); all m/z are curator-computed for this instantiation, none are printed in the book."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 45.0573, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_methaniminium", "species_id": "methaniminium_ion", "step_id": "step_alpha_cleavage", "observed_mz": 30.0338, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
